Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Nystatin / adhesive tape / codeine / morphine / NSAIDS 
(Non-Steroidal Anti-Inflammatory Drug) / aspirin / ibuprofen
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
___: Exploratory laparotomy, ___ repair of 
perforated gastrojejunal ulcer.

 
History of Present Illness:
Mr. ___ is a ___ year old man with a hx CAD s/p CABG, DM2, 
Whipple ___ (pathology negative for malignancy), CCY, 
presenting with abdominal pain, with CT abd/pelvis showing free 
air. 

Patient began having pain yesterday at noon. Was sudden onset, 
radiating from right to left and back. He had associated 
nausea/vomiting and diarrhea. He had no preceding symptoms, 
denies chronic NSAID use. Last EGD was ___ years ago that showed 
no ulcers. 

Patient initially presented to an OSH where he had a CT 
abd/pelvis that showed free air, and he was transferred here for 
further care
 
Past Medical History:
PMH: CAD, HTN, DM2, high cholesterol, diverticulosis, GERD, 
possible (unclear) history of peptic ulcer

PSH: CABG ___, facial reconstruction

 
Social History:
___
Family History:
Father - pancreatic CA
 
Physical Exam:
ADMISSION PE: 
Vitals - T 100.5; BP 135/70; HR 90; RR 18; SPO2 96% RA
Gen - WA, NAD
Resp - no resp distress
Card - HDS
Abd - guarding throughout, very tender throughout, +rebound

DISCHARGE PHYSICAL EXAM:
Gen: [x] NAD, [x] AAOx3
CV: [x] RRR, [] murmur
Resp: [x] breaths unlabored, [] CTAB, [] wheezing, [] rales
Abdomen: [x] soft, [] distended, [x] tender, [] rebound/guarding
Wound: [x] incisions clean, dry, intact
Ext: [x] warm, [] tender, [] edema
 
Pertinent Results:
RADIOLOGY:
___ CT abd/pelvis: pneumoperitoneum, free fluid. see BID 
___ report. 

LABS:
___ 05:34PM BLOOD WBC-7.9 RBC-3.56* Hgb-11.3* Hct-35.5* 
MCV-100* MCH-31.7 MCHC-31.8* RDW-15.9* RDWSD-58.2* Plt ___
___ 05:14AM BLOOD WBC-6.0 RBC-2.92* Hgb-9.4* Hct-29.4* 
MCV-101* MCH-32.2* MCHC-32.0 RDW-16.1* RDWSD-59.6* Plt Ct-91*
___ 05:16AM BLOOD WBC-4.3 RBC-3.28* Hgb-10.2* Hct-32.7* 
MCV-100* MCH-31.1 MCHC-31.2* RDW-16.0* RDWSD-58.9* Plt Ct-94*
___ 05:44AM BLOOD WBC-3.8* RBC-2.66* Hgb-8.3* Hct-26.6* 
MCV-100* MCH-31.2 MCHC-31.2* RDW-15.8* RDWSD-57.5* Plt ___
___ 05:12AM BLOOD WBC-4.2 RBC-2.92* Hgb-9.0* Hct-29.0* 
MCV-99* MCH-30.8 MCHC-31.0* RDW-15.8* RDWSD-57.1* Plt ___

___ 05:34PM BLOOD Neuts-85.1* Lymphs-10.8* Monos-2.5* 
Eos-0.9* Baso-0.3 Im ___ AbsNeut-6.69* AbsLymp-0.85* 
AbsMono-0.20 AbsEos-0.07 AbsBaso-0.02

___ 05:34PM BLOOD ___ PTT-31.0 ___
___ 03:14AM BLOOD Plt Ct-80*
___ 05:16AM BLOOD Plt Ct-94*
___ 05:44AM BLOOD Plt ___
___ 05:12AM BLOOD Plt ___

___ 05:34PM BLOOD Glucose-110* UreaN-15 Creat-1.2 Na-133* 
K-6.1* Cl-101 HCO3-20* AnGap-12
___ 03:14AM BLOOD Glucose-189* UreaN-14 Creat-1.3* Na-135 
K-4.4 Cl-102 HCO3-20* AnGap-13
___ 06:16AM BLOOD Glucose-135* UreaN-9 Creat-1.0 Na-140 
K-3.1* Cl-101 HCO3-28 AnGap-11
___ 05:25AM BLOOD Glucose-181* UreaN-6 Creat-1.0 Na-134* 
K-4.0 Cl-101 HCO3-22 AnGap-11
___ 10:10AM BLOOD Glucose-186* UreaN-5* Creat-1.1 Na-135 
K-4.5 Cl-104 HCO3-23 AnGap-8*
___ 05:12AM BLOOD Glucose-153* UreaN-8 Creat-1.3* Na-136 
K-4.6 Cl-102 HCO3-22 AnGap-12

___ 05:34PM BLOOD Albumin-3.4* Calcium-8.4 Phos-3.2 Mg-1.6
___ 05:16AM BLOOD Calcium-8.7 Phos-3.1 Mg-1.9
___ 10:10AM BLOOD Calcium-8.2* Phos-3.3 Mg-1.8
___ 05:12AM BLOOD Calcium-8.7 Phos-4.5 Mg-1.7
 
Brief Hospital Course:
Mr. ___ is a ___ male who presented with approximately 
36 hours of severe worsening diffuse abdominal pain with 
associated subjective fevers.  The patient was initially 
evaluated at an outside hospital where workup was significant 
for axial imaging displaying free intraperitoneal air as well as 
free intraperitoneal fluid.  Of note, the patient was status 
post Whipple procedure in ___ for benign disease.  Given his 
complex surgical history, the patient was transferred to ___ 
___ for definitive care.  Upon 
evaluation in the Emergency Department, the patient was found to 
have diffuse abdominal tenderness as well as peritoneal signs.  
Given his concerning exam and imaging findings, informed consent 
was obtained and he was taken to the operating room for 
exploratory laparotomy, ___ patch and repair of a perforated 
gastrojejunal ulcer. He was extubated upon completion of the 
case, recovered in PACU, and then transferred to the surgical 
floor for continued monitoring and post operative management. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a Dilaudid PCA 
and then transitioned to PO Tylenol with his home dose of oral 
for breakthrough, once tolerating a diet. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. Advised to 
hold metoprolol for ___ for low BP (asymptomatic but improving 
on day of discharge - to resume on ___.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was initially kept NPO with a 
___ tube in place for decompression.  On ___, the NGT 
was removed, therefore, the diet was advanced sequentially to a 
Regular diet, which was well tolerated. Patient's intake and 
output were closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions, particularly regarding his omeprazole 
dosing and advice regarding smoking cessation, with 
understanding verbalized and agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BusPIRone 15 mg PO BID 
2. Atorvastatin 20 mg PO QPM 
3. Metoprolol Tartrate 50 mg PO BID 
4. Venlafaxine XR 150 mg PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 
6. Vitamin D 1000 UNIT PO DAILY 
7. amLODIPine 5 mg PO DAILY 
8. GlipiZIDE XL 5 mg PO DAILY 
9. Gabapentin 300 mg PO BID 
10. Omeprazole 40 mg PO DAILY 
11. OxyCODONE (Immediate Release) 15 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
You can take over the counter tylenol  
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze/sob 
RX *albuterol sulfate 90 mcg 2 PUFFS IH q6h PRN Disp #*1 Inhaler 
Refills:*1 
3.  amLODIPine 5 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  BusPIRone 15 mg PO BID  
6.  Gabapentin 300 mg PO BID  
7.  GlipiZIDE XL 5 mg PO DAILY  
8.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*1 
9.  OxyCODONE (Immediate Release) 15 mg PO BID  
10.  Tamsulosin 0.4 mg PO QHS  
11.  Venlafaxine XR 150 mg PO DAILY  
12.  Vitamin D 1000 UNIT PO DAILY  
13. HELD- Metoprolol Tartrate 50 mg PO BID  This medication was 
held. Do not restart Metoprolol Tartrate until  ___ due to low 
BP on ___ (Bp is normalizing-- hold for one dose) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Perforated viscus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the Acute Care Surgery Service on ___ 
with a perforation in your intestine and underwent surgery to 
repair the hole. You were given antibiotics for several days 
after surgery. You had a contrast study that showed no leak at 
the site of repair. Your diet was then advanced to regular which 
you tolerated well. You are now ready to be discharged home with 
the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___